US08609715B2
Step 1. Synthesis of 5-chloromethylthiophene-2-carboxylic acid tert-butyl ester
5-Formylthiophene-2-carboxylic acid (5.27 g, 33.7 mmol), di-tert-butyl dicarbonate (8.1 g, 37.1 mmol), and N,N-dimethylaminopyridine (0.41 g, 3.39 mmol) were dissolved in tert-butanol (120 mL) and dichloromethane (40 mL), and the mixture was stirred overnight. The solvent was evaporated under reduced pressure, and 0.5N aqueous hydrochloric acid solution was added to the residue, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The obtained residue was dissolved in tetrahydrofuran (100 mL) and methanol (10 mL), sodium borohydride (1.28 g, 33.7 mmol) was added at 0° C., and the mixture was stirred for 3 hours. The solvent was evaporated under reduced pressure, 0.5N aqueous hydrochloric acid solution was added to the residue, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The obtained residue was dissolved in dichloromethane (100 ml), methanesulfonyl chloride (2.87 mL, 37.1 mmol) and diisopropylethylamine (8.9 mL, 51.1 mmol) were added at 0° C., and the mixture was stirred for 2 days. The solvent was evaporated under reduced pressure, 0.5N aqueous hydrochloric acid solution was added to the residue, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography to give the title compound (7.5 g).

reactant | 5-Formylthiophene-2-carboxylic acid | 33.7 mmol, 5.27 g | C(=O)C1=CC=C(S1)C(=O)O | C6H4O3S
reactant | di-tert-butyl dicarbonate | 37.1 mmol, 8.1 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | sodium borohydride | 33.7 mmol, 1.28 g | [BH4-].[Na+]
reactant | methanesulfonyl chloride | 37.1 mmol, 2.87 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | diisopropylethylamine | 51.1 mmol, 8.9 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | tert-butanol | 120 mL | C(C)(C)(C)O | C4H10O
solvent | dichloromethane | 40 mL | ClCCl | CH2Cl2
solvent | methanol | 10 mL | CO | CH4O
product | 5-chloromethylthiophene-2-carboxylic acid tert-butyl ester | 7.5 g | C(C)(C)(C)OC(=O)C=1SC(=CC1)CCl | C10H13ClO2S
